US09447074B2
7-(2-(methyloxy)-6-{[(4-methyl-2-pyridinyl)methyl]oxy}phenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine
1,1-dimethylethyl 7-(2-(methyloxy)-6-{[(4-methyl-2-pyridinyl)methyl]oxy}phenyl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (2.57 g) was dissolved in dioxane (20 ml). Gaseous hydrogen chloride was passed through the reaction mixture for about 1.5 h. The reaction was monitored by TLC. On completion the solid formed was collected by filtration and washed with acetone. The solid was then dissolved in water and the mixture neutralised with aqueous sodium hydroxide (1M). The sticky solid formed was extracted with DCM. The organic phase was dried over sodium sulphate and concentrated in vacuo to give a solid. This was purified by silica column chromatography eluting with 0-8% methanol in DCM. The appropriate fractions were combined and concentrated in vacuo to yield a solid. This was triturated with diethyl ether to yield the title compound, 1.34 g (67%).

reactant | 1,1-dimethylethyl 7-(2-(methyloxy)-6-{[(4-methyl-2-pyridinyl)methyl]oxy}phenyl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 2.57 g | COC1=C(C(=CC=C1)OCC1=NC=CC(=C1)C)C1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C29H34N2O4
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 7-(2-(methyloxy)-6-{[(4-methyl-2-pyridinyl)methyl]oxy}phenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine | COC1=C(C(=CC=C1)OCC1=NC=CC(=C1)C)C1=CC2=C(CCNCC2)C=C1 | C24H26N2O2
